US05854268
2. (3R)-3-[(Benzylsulfinyl)methyl]pyrrolidine
Using a similar method to that described in Example 93, step 2, (3R)-3-(benzylsulfinyl)methyl-1-(tert-butoxycarbonyl)pyrrolidine (0.2376 g, 0.735 mmol) was reacted with trifluoroacetic acid (1 ml) in dichloromethane (3 ml) to give, after work up, 0.1543 g (94%) of the title compound as a white solid, which was used without further purification. δH (250 MHz, CDCl3) 1.47 (1H, m), 2.09 (1H, m), 2.52-2.72 (4H, m), 2.94 (2H, m), 3.19 (1H, m), 3.96 (1H, d, J=12.9 Hz), 4.06 (1H, dd, J=12.9 and 3.6 Hz), 7.27-7.43 (5H, m).

reactant | (3R)-3-(benzylsulfinyl)methyl-1-(tert-butoxycarbonyl)pyrrolidine | 0.735 mmol, 0.2376 g | C(C1=CC=CC=C1)S(=O)C[C@H]1CN(CC1)C(=O)OC(C)(C)C | C17H25NO3S
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | (3R)-3-[(Benzylsulfinyl)methyl]pyrrolidine | C(C1=CC=CC=C1)S(=O)C[C@H]1CNCC1 | C12H17NOS
